US06914074B2
3-Bromo-8-chloro-7-hydroxy-1-naphthonitrile
To a mixture of 8-chloro-7-hydroxy-1-naphthonitrile (0.127 g, 0.63 mmol) and glacial acetic acid (1 mL) in a pressure tube was added a solution of bromine (0.24 g, 1.5 mmol) in glacial acetic acid (2 mL). The tube was sealed and the mixture was stirred at 100° C. overnight. The reaction was cooled, poured into water (50 mL), and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with sodium bicarbonate solution, dried over sodium sulfate, filtered, stripped of solvent, and purified on a silica column (20% ethyl acetate—hexanes) to yield 0.10 g (56%) of the title compound as a yellow solid. An analytical sample was prepared by preparative reverse phase HPLC to yield the title compound as a white solid: mp 148-150° C.; 1H NMR (DMSO-d6): δ 7.47 (1H, d, J=8.98 Hz), 7.95 (1H, d, J=9.02 Hz), 8.32 (1H, d, J=2.08 Hz), 8.55 (1H, d, J=2.08 Hz), 11.33 (1H, s); MS (ESI) m/z 280/282/284 (M−H)−.

reactant | 8-chloro-7-hydroxy-1-naphthonitrile | 0.63 mmol, 0.127 g | ClC=1C(=CC=C2C=CC=C(C12)C#N)O | C11H6ClNO
reactant | bromine | 1.5 mmol, 0.24 g | BrBr | Br2
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-Bromo-8-chloro-7-hydroxy-1-naphthonitrile | 0.10 g, 56% | BrC=1C=C(C2=C(C(=CC=C2C1)O)Cl)C#N | C11H5BrClNO
